US08258130B2
A suspension of NaH (2.01 g, 50.3 mmol, 60% in mineral oil) in DMF (45 mL) at 0° C. is treated with 5-fluoro-3-methyl-1H-indole (500 mg, 3.55 mmol), and the mixture is stirred at 0° C. for 1 h. NH2OSO3H (1.9 g, 16.75 mmol) is added portion wise, and the mixture is then warmed to rt and stirred for 2 h. The mixture is quenched with MeOH, diluted with water, extracted with EtOAc, dried (Na2SO4), filtered and concentrated to afford 5-fluoro-3-methyl-indol-1-ylamine. MS: 165 (M+H); 1H NMR (300 MHz, CD3OD): δ 2.22 (s, 3H), 6.86 (m, 1H), 6.99 (s, 1H), 7.08 (m, 1H), 7.36 (m, 1H).

reactant | NaH | 50.3 mmol, 2.01 g | [H-].[Na+]
reactant | 5-fluoro-3-methyl-1H-indole | 3.55 mmol, 500 mg | FC=1C=C2C(=CNC2=CC1)C | C9H8FN
reactant | NH2OSO3H | 16.75 mmol, 1.9 g | NOS(=O)(=O)O | H3NO4S
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 5-fluoro-3-methyl-indol-1-ylamine | FC=1C=C2C(=CN(C2=CC1)N)C | C9H9FN2
